US07582773B2
Step 3: Synthesis of 4-(1-Methyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenol.
The desired product was prepared using a procedure similar to step 4 of example 3. Thus, 5-(4-methoxy-phenyl)-1-methyl-3-pentyl-2-phenyl-1H-indole (0.505 g, 1.317 mmol) was reacted with BBr3 (1.6 ml of a 1M solution in CH2Cl2) to give the product (0.375 g, 1.023 mmol, 78%) as a light-brown oil. 1H NMR (DMSO-d6) δ 0.76 (t, J=7.0 Hz, 3H), 1.14-1.22 (m, 4H), 1.51-1.57 (m, 2H), 2.65 (t, J=7.5 Hz, 2H), 3.55 (s, 3H), 6.84 (d, J=8.6 Hz, 2H), 7.39 (dd, J=1.7, 8.4 Hz, 1H), 7.43-7.50 (m, 6H), 7.54 (t, J=7.2 Hz, 2H), 7.68 (d, J=1.5 Hz, 1H), 9.37 (s, 1H); [ESI(+)], m/z 370 (M+H)+.

reactant | 5-(4-methoxy-phenyl)-1-methyl-3-pentyl-2-phenyl-1H-indole | 1.317 mmol, 0.505 g | COC1=CC=C(C=C1)C=1C=C2C(=C(N(C2=CC1)C)C1=CC=CC=C1)CCCCC | C27H29NO
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(1-Methyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenol | CN1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)O)CCCCC)C1=CC=CC=C1 | C26H27NO
